* Comparator Model

.SUBCKT comparator non_inv inv out
+PARAMS: VOUT=5

B_COMP out 0 V={IF(V(op)>=0, VOUT, 0)} smoothbsrc=0
+ rcconst = {GLOBAL_TS*1e-5}

B_OPAMP op 0 V={1e9*(V(non_inv)-V(inv))} smoothbsrc=1
+ rcconst = {GLOBAL_TS*1e-6}
R_OPAMP op 0 1e7

R_non_inv non_inv 0 1e7
R_inv inv 0 1e7

.ENDS comparator
